US04782079
A stirred mixture of 2-bromo-3-methylthiophene (15.0 g, 0.085 mole) and bis(1,3-diphenylphosphino)propane nickel(II) chloride (0.5 g, 0.009 mole) in diethyl ether (75 mL) was cooled to 0° C. Phenyl magnesium bromide (29.6 mL of a 3M solution in diethyl ether) was added slowly, causing the reaction mixture to reflux. After complete addition, reflux was continued for 15 minutes. The mixture was cooled, and approximately 100 mL of an aqueous 10% hydrochloric acid solution was added. The resultant mixture was extracted with diethyl ether, and the extract was washed with an aqueous saturated sodium bicarbonate solution. The washed extract was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure yielding 17.3 g of 3-methyl-2-phenylthiophene as a colorless oil.

reactant | 2-bromo-3-methylthiophene | 0.085 mole, 15.0 g | BrC=1SC=CC1C | C5H5BrS
reactant | Phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 75 mL | C(C)OCC | C4H10O
product | 3-methyl-2-phenylthiophene | 17.3 g | CC1=C(SC=C1)C1=CC=CC=C1 | C11H10S
